*****************************************************************
* NXP BUK9Y3R5-40E
*
* Polarity N-Channel
* Ratings 40V/3.800000E-003OHMS/100A
*
* Date Created Fri Sep 27 04:30:33 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y3R5-40E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 4000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00161541847075299 TC=0.00468155427953117,1.98326652867878E-05
RBD 9 4 0.000628066711395193 TC=0.00468155427953117,1.98326652867878E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 3.63e-09
RG 1 2 2.5

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	296.995
+ -16	304.121
+ -10	326.321
+ -5	372.316
+ -4	395.199
+ -3	425.115
+ -2	492.015
+ -1	540.766
+ -0.5	603.905
+ -0.2	698.781
+ -0.1	836.63
+ 0	832.3155
+ 0.1	834.702
+ 0.2	685.186
+ 0.5	574.482
+ 1	487.467
+ 2	403.322
+ 3	357.374
+ 4	325.022
+ 5	300.845
+ 6	283.919
+ 8	263.567
+ 10	252.489
+ 12	245.514
+ 15	238.325
+ 20	229.25
+ 25	221.793
+ 30	215.718



.MODEL MINT NMOS(Vto=2.17015392294162 Kp=3.760995e+002 Nfs=440000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=8.39966326152771e-13
+ N=1 M=0.6 VJ=0.69 Fc=0.5 Cjo=2.173297e-09 Tt=1.4056e-08)

.ENDS

